US08703922B2
0.63 mL (4.6 mmol) of triethylamine, 0.87 g (4.6 mmol) of p-toluenesulfonyl chloride, and 20 mg (0.21 mmol) of trimethylamine hydrochloride were added to a solution of 1.0 g (4.2 mmol) of 4,8,12-trimethyltridec-3-en-1-ol in dry methylene chloride (3 mL) at 0° C., sequentially. After being stirred for 2 hours at room temperature, 0.10 mL (0.83 mmol) of N,N-dimethyl-1,3-propanediamine was added to the reaction mixture at 0° C. After being stirred for 30 min, the mixture was diluted with ethyl acetate. The resulting solution was washed with water, 1M hydrochloric acid, saturated sodium bicarbonate aqueous solution, and saturated brine, successively, and then dried over anhydrous sodium sulfate. After filtration, the filtrate was concentrated to obtain (4,8,12-trimethyltridec-3-enyl)tosylate as a crude product.

reactant | triethylamine | 4.6 mmol, 0.63 mL | C(C)N(CC)CC | C6H15N
reactant | p-toluenesulfonyl chloride | 4.6 mmol, 0.87 g | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
reactant | trimethylamine hydrochloride | 0.21 mmol, 20 mg | Cl.CN(C)C
reactant | 4,8,12-trimethyltridec-3-en-1-ol | 4.2 mmol, 1.0 g | CC(=CCCO)CCCC(CCCC(C)C)C | C16H32O
reactant | N,N-dimethyl-1,3-propanediamine | 0.83 mmol, 0.10 mL | CN(CCCN)C | C5H14N2
solvent | methylene chloride | 3 mL | C(Cl)Cl | CH2Cl2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (4,8,12-trimethyltridec-3-enyl)tosylate | CC(=CCCOS(=O)(=O)C1=CC=C(C)C=C1)CCCC(CCCC(C)C)C | C23H38O3S
